US07541374B2
3.28 g of 4-bromo-3-(trifluoromethyl)-1H-pyrazole-1-ylmethanol was dissolved to 40 ml of dichloromethane. 2.9 ml of thionyl chloride was added to the solution, followed by stirring at room temperature for overnight. The reaction mixture was concentrated under reduced pressure. The obtained solid was washed with the mixture of hexane and chloroform to obtain 3.33 g of 4-bromo-1-(chloromethyl)-3-(trifluoromethyl)-1H-pyrazole.

reactant | 4-bromo-3-(trifluoromethyl)-1H-pyrazole-1-ylmethanol | 3.28 g | BrC=1C(=NN(C1)CO)C(F)(F)F | C5H4BrF3N2O
reactant | thionyl chloride | 2.9 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 4-bromo-1-(chloromethyl)-3-(trifluoromethyl)-1H-pyrazole | 3.33 g | BrC=1C(=NN(C1)CCl)C(F)(F)F | C5H3BrClF3N2
